US04734367
Penicillium notatum NRRL 832 was cultivated on an agar slant with 7.5 ml of medium 5 consisting of 2 wt.% of sucrose, 1.5 wt.% of agar and 96.5 wt.% of beer wort (specific gravity 1.05-1.035) having a pH of 6.5. After incubation at 30° C. for 6 days the batch was treated with 9 ml of 0.9% (wt./vol.) sodium chloride solution and the cells were suspended. Subsequently, a shaking flask containing 100 ml of medium 6, which consisted of 1 wt.% of cornsteep, 1 wt.% of soya meal, 1 wt.% of glucose and 97 wt.% of distilled water, was inoculated with 1 ml of the suspension obtained. After an incubation period of 3 days while shaking at 30° C. 0.1 g of ethyl α-formyl-β-phenylpropionate was added directly to the pre-culture and incubated further while shaking at 30° C. After a reaction time of 1 hour the batch was extracted with ethyl acetate, there being obtained ethyl (R)-(+)-2-benzyl-3-hydroxypropionate in an optical purity of 88.5% ee.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | sodium chloride | [Cl-].[Na+]
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl α-formyl-β-phenylpropionate | 0.1 g | C(=O)C(C(=O)OCC)CC1=CC=CC=C1 | C12H14O3
solvent | water | O | H2O
product | ethyl (R)-(+)-2-benzyl-3-hydroxypropionate | C(C1=CC=CC=C1)[C@@H](C(=O)OCC)CO | C12H16O3
